US07514419B2
To a suspension of NaH (509 mg, 20.16 mmol) in THF (50 ml) was added 5-bromo-3-isopropyl-1H-indole (4.55 g, 19.20 mmol). The reaction mixture was stirred at r.t. for 30 min, and TIPSCl was then added at r.t. The reaction was stirred further for 1 hr, diluted with EtOAc, and water was added to quench the reaction. The organic layer was collected and the water layer was further extracted with EtOAC once. The combined organic layer was dried over MgSO4, filtrated and concentrated. The residue was purified by column chromatography on silica gel, eluting with hexane to afford 5-bromo-3-isopropyl-1-triisopropylsilyl-1H-indole (5.1 g, 67.6%): 1H NMR (200 MHz, CDCl3): δ 7.53 (d, J=1.8 Hz, 1H), 7.13 (d, J=8.8 Hz, 1H), 6.99 (m, 1H), 6.76(s, 1H), 2.92 (m, 1H), 1.44 (m, 3H), 1.14 (d, J=6.6 Hz, 6H), 0.93 (d, J=7.4 Hz, 18H). TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=Hexane (1:9); Rf=0.65.

reactant | NaH | 20.16 mmol, 509 mg | [H-].[Na+]
reactant | 5-bromo-3-isopropyl-1H-indole | 19.20 mmol, 4.55 g | BrC=1C=C2C(=CNC2=CC1)C(C)C | C11H12BrN
reactant | TIPSCl | CC(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-bromo-3-isopropyl-1-triisopropylsilyl-1H-indole | 5.1 g, 67.6% | BrC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C(C)C | C20H32BrNSi
